US07259175B2
3-(2-Methyl-4-{2-[5-methyl-2-(6-phenyl-pyridin-3-yl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester
A mixture of 3-(4-{2-[2-(6-Chloro-pyridin-3-yl)-5-methyl-oxazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester (41 mg, 0.1 mmol) and phenyl boronic acid (25 mg, 0.2 mmol) and Na2CO3 (22 mg, 0.2 mmol) in toluene (0.5 mL) and water (0.1 mL) is degassed and filled with nitrogen for three times, then Pd(PPh3)4 (3 mg) is added under nitrogen. The reaction mixture is heated at 90° C. After 12 hrs, the reaction mixture is cooled to room temperature, diluted with ethyl acetate, washed with water, dried, concentrated. Column chromatography on silica gel (Hexane/ethyl acetate as eluent) gave 45 mg of product.

reactant | 3-(4-{2-[2-(6-Chloro-pyridin-3-yl)-5-methyl-oxazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester | 0.1 mmol, 41 mg | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C=1C=NC(=CC1)Cl)C)=O | C22H23ClN2O4
reactant | phenyl boronic acid | 0.2 mmol, 25 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 0.2 mmol, 22 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.1 mL | O | H2O
product | 3-(2-Methyl-4-{2-[5-methyl-2-(6-phenyl-pyridin-3-yl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester | 45 mg | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C=1C=NC(=CC1)C1=CC=CC=C1)C)=O | C28H28N2O4
